US08748418B2
To a solution of (5R,6R)-5-(5-amino-2-fluoro-phenyl)-6-fluoro-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-ylamine (intermediate A10B) (20.4 mg, 80 μmol) in methanol (0.3 ml) was added at 23° C. under inert atmosphere 4-chloro-1-difluoromethyl-1H-pyrazole-3-carbaldehyde (15.9 mg, 88 μmol) and the reaction mixture was stirred at 23° C. for 60 min. Then decaborane (19.5 mg, 160 μmol) was added in one portion and the mixture was stirred at 45° C. for 15 h. The solution was quenched with 10% Na2CO3-sol., methanol was removed under reduced pressure and then extracted three times with ethyl acetate. The organic layers were dried with Na2SO4 and evaporated to give the crude product, which was purified by basic preparative HPLC (column: Gemini 5μ C18 110A° AXIA (50×21.2 mm), flow: 40 ml/min; gradient: water (+0.1% TEA)/acetonitrile (90%-10% 1 min plateau; in 4.5 min to 5%-95%); collection: UV-detector 230 nm) and further purified by preparative TLC (Merck Si—NH2 HPTLC-plate with dichloromethane/methanol 9:1) to give the (5R,6R)-5-(5-((4-chloro-1-(difluoromethyl)-1H-pyrazol-3-yl)methylamino)-2-fluorophenyl)-6-fluoro-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-amine (1.5 mg, 4.5%) as a colorless oil. MS (ISP): m/z=420.1 [(M+H)+] and 422.1 [(M+2+H)+].

reactant | (5R,6R)-5-(5-amino-2-fluoro-phenyl)-6-fluoro-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-ylamine | 80 μmol, 20.4 mg | NC=1C=CC(=C(C1)[C@]1(N=C(COC[C@@H]1F)N)C)F | C12H15F2N3O
reactant | 4-chloro-1-difluoromethyl-1H-pyrazole-3-carbaldehyde | 88 μmol, 15.9 mg | ClC=1C(=NN(C1)C(F)F)C=O | C5H3ClF2N2O
reactant | decaborane | 160 μmol, 19.5 mg | [B][B][B][B][B][B][B][B][B][B] | B10
solvent | methanol | 0.3 ml | CO | CH4O
product | (5R,6R)-5-(5-((4-chloro-1-(difluoromethyl)-1H-pyrazol-3-yl)methylamino)-2-fluorophenyl)-6-fluoro-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-amine | 1.5 mg, 4.5% | ClC=1C(=NN(C1)C(F)F)CNC=1C=CC(=C(C1)[C@]1(N=C(COC[C@@H]1F)N)C)F | C17H18ClF4N5O
